US07547691B2
(2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-morpholin-4-yl-methanone di-hydrochloride
Using the method of 2-{5-methyl-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride, the title compound is synthesized from [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-ylmethanone and 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester and isolated as yellow foam. ES+(m/z) 494 [M(free base)+H].

reactant | 2-{5-methyl-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-6-carboxylic acid dimethylamide di-hydrochloride | Cl.Cl.CN(C(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCC2CCN(CC2)C)C1)C
reactant | [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-ylmethanone | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2)C | C18H16ClN3O2S
reactant | 4-(3-aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
product | (2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-morpholin-4-yl-methanone di-hydrochloride | Cl.Cl.CC=1C(=NC(=NC1)NCCCC1CCN(CC1)C)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2 | InChI=1S/C27H35N5O2S.2ClH/c1-19-18-29-27(28-9-3-4-20-7-10-31(2)11-8-20)30-25(19)24-16-21-5-6-22(17-23(21)35-24)26(33)32-12-14-34-15-13-32;;/h5-6,16-18,20H,3-4,7-15H2,1-2H3,(H,28,29,30);2*1H
